US09193723B2
(S)-tert-butyl 3-(4-(benzyloxycarbonyl)phenoxy)pyrrolidine-1-carboxylate
To a stirred solution of (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (1 g, 5.34 mmol) in tetrahydrofuran (38.1 ml) was added benzyl 4-hydroxybenzoate (1.341 g, 5.87 mmol) and triphenylphpsphine polymer bound (4.45 g, 8.01 mmol). The reaction mixture was cooled to 0° C. and a solution of (E)-diisopropyl diazene-1,2-dicarboxylate (1.367 ml, 6.94 mmol) in tetrahydrofuran (5 mL) was added dropwise over 15 minutes. The reaction was allowed to stir at room temperature for 16 hours and the mixture was filtered. The solids were washed with dichloromethane, and the combined filtrates were concentrated and purified by normal phase chromatography to give the title compound.

reactant | (R)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 5.34 mmol, 1 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | benzyl 4-hydroxybenzoate | 5.87 mmol, 1.341 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | (E)-diisopropyl diazene-1,2-dicarboxylate | 6.94 mmol, 1.367 ml | N(=N\C(=O)OC(C)C)/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 38.1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-tert-butyl 3-(4-(benzyloxycarbonyl)phenoxy)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(O[C@@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H27NO5
